US06552022B1
4-(3-Nitro-phenyl)-piperazine-1-carboxylic Acid tert-butyl Ester
To a solution of 1-iodo-3-nitro-benzene (9 g), piperazine-1-carboxylic acid tert-butyl ester (13.5 g) and sodium tert-butoxide (9.7 g) in dioxane (150 mL) was added tris(dibenzylideneacetone)dipalladium (2 g) and tri-o-tolylphosphine (2.2 g) and the mixture was heated at reflux for 24 hours. The solution was then cooled to room temperature, taken in Et2O and washed with brine. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude residue was recrystallized from diisopropyl ether to give the title compound (6 g) as a yellow solid.

reactant | 1-iodo-3-nitro-benzene | 9 g | IC1=CC(=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | piperazine-1-carboxylic acid tert-butyl ester | 13.5 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | sodium tert-butoxide | 9.7 g | CC(C)([O-])C.[Na+]
reactant | tri-o-tolylphosphine | 2.2 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
catalyst | tris(dibenzylideneacetone)dipalladium | 2 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(3-Nitro-phenyl)-piperazine-1-carboxylic Acid tert-butyl Ester | 6 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C15H21N3O4
